US07498337B2
N-methyl-1-[5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methanamine dihydrochloride
By a similar operation as in Example 26 and using tert-butyl methyl{[5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate (210 mg), the title compound was obtained as colorless crystals (yield 67 mg, 34%). More specifically, tert-butyl methyl{[5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate (210 mg) was dissolved in dichloromethane (2 mL), trifluoroacetic acid (1 mL) was added at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction solution was basified by adding dropwise to a 6% aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=1:1→1:9) to give a free salt of the title compound as a pale-yellow oil. The obtained free salt was dissolved in ethyl acetate (5 mL), a 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-ethanol to give the title compound as colorless crystals (yield 67 mg, 34%).

reactant | tert-butyl methyl{[5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate | 210 mg | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=C(C=CC=C1)C)S(=O)(=O)C=1C=NC=CC1 | C23H27N3O4S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-methyl-1-[5-(2-methylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methanamine dihydrochloride | Cl.Cl.CNCC1=CN(C(=C1)C1=C(C=CC=C1)C)S(=O)(=O)C=1C=NC=CC1 | InChI=1S/C18H19N3O2S.2ClH/c1-14-6-3-4-8-17(14)18-10-15(11-19-2)13-21(18)24(22,23)16-7-5-9-20-12-16;;/h3-10,12-13,19H,11H2,1-2H3;2*1H
